2120-12-19 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2120-12-18**] 03:24 PM
 EKG - At [**2120-12-18**] 05:00 PM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-12-18**] 09:49 PM
   Metoprolol - [**2120-12-19**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-19**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 65 (55 - 92) bpm
   BP: 120/51(69) {97/51(69) - 169/84(98)} mmHg
   RR: 16 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,159 mL
                                                                     95 mL
   PO:
             TF:
   IVF:
                                                                    159 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    620 mL
   Urine:
                                                                  1,245 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -86 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.40/39/62/23/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 124
   Physical Examination
   GENERAL: sedated, arousable, able to open eyes on command but no
   squeeze hands
   HEENT: Markedly swollen tongue unable to visualize back of throat.  No
   facial or periorbital swelling.  Normocephalic, atraumatic. No
   conjunctival pallor. No scleral icterus. PERRLA.  MMM.
   CARDIAC: irregular rhythm. No murmurs, rubs or [**Last Name (un) 2911**]. No JVD.
   LUNGS: CTAB, good air movement bilaterally anteriorly.
   ABDOMEN: +BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema, 2+ dorsalis pedis and radial pulses.
   SKIN: + macular papular rash with excoriations on right back and hip.
   NEURO:  sedated, arousable, able to open eyes on command but no squeeze
   hands
   Labs / Radiology
   229 K/uL
   12.9 g/dL
   195 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   140 mEq/L
   39.3 %
   9.3 K/uL
        [image002.jpg]
                            [**2120-12-18**]  03:51 PM
                            [**2120-12-18**]  05:45 PM
                            [**2120-12-19**]  04:00 AM
                            [**2120-12-19**]  04:30 AM
   WBC
   9.3
   Hct
   39.3
   Plt
   229
   Cr
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   22
   25
   Glucose
   195
   Other labs: PT / PTT / INR:27.3/30.3/2.7, CK / CKMB /
   Troponin-T:43/2/<0.01, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   87 yo female with PMH Atrial fibrillation on coumadin, HTN on
   lisinopril , HL, eczema, recent drermatologic rashes, and recent
   facial/lip swelling presenting with new tongue swelling this AM and s/p
   intubation in the ED.
   .
   #. Angioedema: Intubated as was having trouble talking secondary to
   tongue swelling.  Although pt with recent facial and lip swelling on
   and off since end of [**Month (only) 270**]. This is first episode of tongue
   swelling. Had h/o hayfever as child. Allergies to fish and sulfa but no
   exposure recently.  Also recently followed by dermatologist for rash.
   -hold lisinopril
   -pull back ET tube 1.5 cm
   -benadryl 50mg IV q6hrs
   -continue steroids 80mg IV q8hrs
   -pepcid 20mg IV BID
   -continue home claritin
   -continue intubation until swelling significantly improved, will need
   ET tube pulled back, f/u final read CXR
   -waiting to hear back from dermatologist about skin rashes over the
   summer
   -check C4 and C1 inhibitor
   -serum tryptase not helpful given rxn not within last 4 hrs
   .
   #. ? ST depression in inferior leads from EKG in ED. No EKG in chart.
   -get fax from ED.
   -repeat EKG here
   -1st set of CE negative here
   -no ASA given angioedema
   -cycle enzymes, next set due at 8:30pm, 1st set negative
   -continue home metoprolol
   -continue zocor
   .
   #. Eczema:
   - continue triamcinolone topical 0.1% 1 app QID
   .
   #. HL:
   -continue zocor
   .
   #. A fib:
   -check INR
   -if stable continue home coumadin
   -continue amlodipine and metoprolol
   .
   #. Osteoporosis:
   -continue calcium and vitamin D
   -continue fosamax
   .
   #. FEN:
   -maintenance IVF
   -monitor daily electrolytes, repeat K+
   -NPO for now
   .
   #. PPX:
   -DVT no needed if INR therapeutic
   -Bowel regimen with colace and senna
   .
   #. ACCESS: 2 peripheral IV's 20 and 18 gauge
   .
   #. CODE STATUS: Full confirmed with daughter.
   .
   #. EMERGENCY CONTACT: [**Name (NI) 83**] formal HCP. [**Name (NI) **] contact is daughter [**Name (NI) 7080**]
   [**Telephone/Fax (1) 9262**]
   .
   #. DISPOSITION: ICU for now, pending decreased swelling of tongue and
   successful extubation
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-18**] 03:43 PM
   18 Gauge - [**2120-12-18**] 03:44 PM
   Prophylaxis:
   DVT: checking INR
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code confirmed with daughter
   Disposition:  [**Name2 (NI) 83**] formal HCP. [**Name (NI) **] contact is daughter [**Name (NI) 7080**]
   [**Telephone/Fax (1) 9262**]

2120-12-20 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   All medications were changed to PO.  The patient got a little loopy
   from too much Benadryl, decreased dose of this to 12.5- 25mg PO q8h PRN
   This AM, the patient stable, doing much better.
   The patient was seen by Allergy.  Lisinopril was added to the list of
   outpatient meds, recommended continuing Prednisone 40mg daily PO until
   outpatient follow-up.  Recommended f/u labs.
   Allergies:
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-12-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-20**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 74 (51 - 79) bpm
   BP: 149/63(83) {126/34(64) - 162/112(116)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.7 kg (admission): 58.9 kg
   Height: 66 Inch
                  Total In:
                                                                    722 mL
                  PO:
                                                                    580 mL
                  TF:
   IVF:
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    307 mL
   Urine:
                                                                  1,755 mL
                                                                    307 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,033 mL
                                                                   -307 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: ///23/
   Ve: 6.9 L/min
   Physical Examination
   GENERAL: awake and alert, extubated
   HEENT: Marked improvement of tongue edema.  No facial or periorbital
   swelling.  Normocephalic, atraumatic.
   CARDIAC: irregular rhythm. No murmurs, rubs or [**Last Name (un) 2911**]. No JVD.
   LUNGS: CTAB
   ABDOMEN: +BS. Soft, NT, ND.
   EXTREMITIES: No edema
   Labs / Radiology
   228 K/uL
   11.5 g/dL
   205 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   26 mg/dL
   107 mEq/L
   142 mEq/L
   35.4 %
   11.7 K/uL
        [image002.jpg]
                            [**2120-12-18**]  03:51 PM
                            [**2120-12-18**]  05:45 PM
                            [**2120-12-19**]  04:00 AM
                            [**2120-12-19**]  04:30 AM
                            [**2120-12-20**]  04:54 AM
   WBC
   9.3
   11.7
   Hct
   39.3
   35.4
   Plt
   229
   228
   Cr
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   22
   25
   Glucose
   195
   205
   Other labs: PT / PTT / INR:27.3/30.3/2.7, CK / CKMB /
   Troponin-T:43/2/<0.01, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   87 yo female with PMH Atrial fibrillation on coumadin, HTN on
   lisinopril , HL, eczema, recent drermatologic rashes, and recent
   facial/lip swelling presenting with new tongue swelling and s/p
   intubation in the ED.
   .
   #. Angioedema: Intubated as was having trouble talking secondary to
   tongue swelling.  Although pt with recent facial and lip swelling on
   and off since end of [**Month (only) 270**]. This is first episode of tongue
   swelling. Had h/o hayfever as child. Allergies to fish and sulfa but no
   exposure recently.  Also recently followed by dermatologist for rash.
   -Lisinopril added to the list of Allergies
   -Continue Prednisone 40mg PO daily for now (until Allrgy f/u early next
   week)
   -Continue H2 blocker
   -continue home Claritin
    -waiting to hear back from dermatologist about skin rashes over the
   summer
-A normal C4 with C1inhib pending
   -F/u TSH, ESR, CRP and LFTs
   -Pt. to follow up with Allergy as outpt.
   #. ? ST depression in inferior leads from EKG in ED. No EKG in chart.
   -cardiac enzymes negative x 3
   -continue home metoprolol
   -continue zocor
   .
   #. Eczema:
   - continue triamcinolone topical 0.1% 1 app QID
   .
   #. HL:
   -continue zocor
   .
   #. A fib:
   -check INR (2.7)
   -continue home coumadin
   -continue amlodipine and metoprolol
   .
   #. Osteoporosis:
   -Continue calcium and vitamin D
   -hold fosamax until next week
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-18**] 03:43 PM
   18 Gauge - [**2120-12-18**] 03:44 PM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer: famotidine PO
   VAP:
   Comments:
   Communication:  Comments: No formal HCP. [**Name (NI) **] contact is daughter [**Name (NI) 7080**]
   [**Telephone/Fax (1) 9262**]
   Code status: Full code confirmed with daughter
   Disposition:  [**Name2 (NI) **] out

2120-12-20 12:11:00 Physician Attending Progress Note
Chief Complaint: angioedema, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-12-19**] 09:49 AM
   No complaints
   History obtained from Patient
   Allergies:
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-12-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-12-20**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 58 (51 - 83) bpm
   BP: 148/49(74) {126/34(64) - 149/112(116)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.7 kg (admission): 58.9 kg
   Height: 66 Inch
                  Total In:
                                                                    722 mL
                                                                     60 mL
   PO:
                                                                    580 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    807 mL
   Urine:
                                                                  1,755 mL
                                                                    807 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,033 mL
                                                                   -747 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   228 K/uL
   205 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   26 mg/dL
   107 mEq/L
   142 mEq/L
   35.4 %
   11.7 K/uL
        [image002.jpg]
                            [**2120-12-18**]  03:51 PM
                            [**2120-12-18**]  05:45 PM
                            [**2120-12-19**]  04:00 AM
                            [**2120-12-19**]  04:30 AM
                            [**2120-12-20**]  04:54 AM
   WBC
   9.3
   11.7
   Hct
   39.3
   35.4
   Plt
   229
   228
   Cr
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   22
   25
   Glucose
   195
   205
   Other labs: PT / PTT / INR:27.3/30.3/2.7, CK / CKMB /
   Troponin-T:43/2/<0.01, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ANGIOEDEMA:  Likely secondary to ACE I.  No swelling noted on exam.
   Discontinue benadryl, start claritin.  Continue 40 mg prednisone a day
   until she follows up with allergy next week.
 HYPERTENSIVES:  Change back to po beta blocker.
 ATRIAL FIBRILLATION:  On beta blocker, coumadin.  Check PT.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-18**] 03:43 PM
   18 Gauge - [**2120-12-18**] 03:44 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2120-12-21 07:38:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   Foley d/c'd
   Allergies:
   Ace Inhibitors
   Angioedema;
   Sulfa (Sulfonamide Antibiotics)
   swollen eyes an
   Fish Product Derivatives
   puffy eyes and
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-12-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-21**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 61 (47 - 87) bpm
   BP: 162/58(84) {127/43(64) - 165/128(133)} mmHg
   RR: 17 (14 - 19) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.7 kg (admission): 58.9 kg
   Height: 66 Inch
                  Total In:
                                                                    810 mL
                  PO:
                                                                    810 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,587 mL
                                                                    490 mL
   Urine:
                                                                  1,587 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -777 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GENERAL: awake and alert, extubated
   HEENT: Marked improvement of tongue edema.  No facial or periorbital
   swelling.  Normocephalic, atraumatic.
   CARDIAC: irregular rhythm. No murmurs, rubs or [**Last Name (un) 2911**]. No JVD.
   LUNGS: CTAB
   ABDOMEN: +BS. Soft, NT, ND.
   EXTREMITIES: No edema
   Labs / Radiology
   225 K/uL
   12.2 g/dL
   144 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   25 mg/dL
   103 mEq/L
   139 mEq/L
   35.6 %
   14.6 K/uL
        [image002.jpg]
                            [**2120-12-18**]  03:51 PM
                            [**2120-12-18**]  05:45 PM
                            [**2120-12-19**]  04:00 AM
                            [**2120-12-19**]  04:30 AM
                            [**2120-12-20**]  04:54 AM
                            [**2120-12-21**]  04:55 AM
   WBC
   9.3
   11.7
   14.6
   Hct
   39.3
   35.4
   35.6
   Plt
   [**Telephone/Fax (3) 9304**]
   Cr
   0.7
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   22
   25
   Glucose
   195
   205
   144
   Other labs: PT / PTT / INR:38.8/30.9/4.0, CK / CKMB /
   Troponin-T:43/2/<0.01, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   87 yo female with PMH Atrial fibrillation on coumadin, HTN on
   lisinopril , HL, eczema, recent rashes, and recent facial/lip swelling
   presenting with new tongue swelling and s/p intubation in the ED.
   .
   #. Angioedema: Intubated in ED but now extubated and doing well.
   Allergies to fish and sulfa but no exposure recently.  Also recently
   followed by dermatologist for rash.  Lisinopril may be responsible
   [**Doctor Last Name 23**] (added this to patient
s allergy list).
   -Continue Prednisone 40mg PO daily for now (until Allergy f/u early
   next week). ESR 28. TSH 0.096
   -Continue H2 blocker, fexofenadine, PRN Benadryl
   -waiting to hear back from dermatologist about skin rashes over the
   summer
-C4 normal; C1inhib pending
   -F/u AST, ALT
   -F/u pending thyroid studies
   -Appreciate allergy recs
   -Pt. to follow up with Allergy as outpt.
   #. Eczema:
   - continue triamcinolone topical 0.1% 1 app QID
   .
   #. Hyperlipidemia:
   -continue zocor
   .
   #. Hypertension: Discontinued lisinopril [**3-11**] angioedema. Will need
   additional [**Doctor Last Name 23**] for BP control. Has sulfa and lisinopril allergies and
   already on max dose of amlodipine, so options limited.  On metoprolol
   as well.
   - Will add hydralazine for now, but could also consider other options.
   - Continue metoprolol and amlodipine
   - Lisinopril and ARBs contraindicated [**3-11**] allergy
   .
   #. A fib: INR supratherapeutic at 4.0
   -check INR daily
   -hold Coumadin for now
   -continue metoprolol
   .
   #. Osteoporosis:
   -Continue calcium and vitamin D
   -hold fosamax until next week
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-18**] 03:43 PM
   18 Gauge - [**2120-12-18**] 03:44 PM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer: famotidine PO
   VAP:
   Comments:
   Communication:  Comments: No formal HCP. [**Name (NI) **] contact is daughter [**Name (NI) 7080**]
   [**Telephone/Fax (1) 9262**]
   Code status: Full code confirmed with daughter
   Disposition:  [**Name2 (NI) **] out

2120-12-21 11:55:00 Physician Attending Progress Note
Chief Complaint: angioedema, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
    Foley catheter discontinued
   History obtained from Patient
   Allergies:
   Ace Inhibitors
   Angioedema;
   Sulfa (Sulfonamide Antibiotics)
   swollen eyes an
   Fish Product Derivatives
   puffy eyes and
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-12-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-12-21**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 55 (47 - 87) bpm
   BP: 151/46(72) {141/43(68) - 168/128(133)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.7 kg (admission): 58.9 kg
   Height: 66 Inch
                  Total In:
                                                                    810 mL
                                                                    480 mL
   PO:
                                                                    810 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,587 mL
                                                                  1,250 mL
   Urine:
                                                                  1,587 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -777 mL
                                                                   -770 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   225 K/uL
   144 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   25 mg/dL
   103 mEq/L
   139 mEq/L
   35.6 %
   14.6 K/uL
        [image002.jpg]
                            [**2120-12-18**]  03:51 PM
                            [**2120-12-18**]  05:45 PM
                            [**2120-12-19**]  04:00 AM
                            [**2120-12-19**]  04:30 AM
                            [**2120-12-20**]  04:54 AM
                            [**2120-12-21**]  04:55 AM
   WBC
   9.3
   11.7
   14.6
   Hct
   39.3
   35.4
   35.6
   Plt
   [**Telephone/Fax (3) 9304**]
   Cr
   0.7
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   22
   25
   Glucose
   195
   205
   144
   Other labs: PT / PTT / INR:38.8/30.9/4.0, CK / CKMB /
   Troponin-T:43/2/<0.01, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ANGIOEDEMA:  Resolved off lisinopril. [**Last Name (un) **] workup in progress.
   Stable from an airway standpoint, ok to transfer to the floor. Needs
   teaching on using Epi pen prior to discharge.
 ATRIAL FIBRILLATION:  Holding coumadin given elevated INR. Repeat
   labs.  Adequately rate controlled.
 HYPERTENSION, BENIGN:  Continues amlodipine and beta blocker.
 LOW TSH:  Need to send T3, T4.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-18**] 03:43 PM
   18 Gauge - [**2120-12-18**] 03:44 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes